US05654472
Synthesis of 1,3-diacetoxy-2-(2,4-difluorophenyl)-2-propanol (according to Reaction formula 3)
To 105 g of 1-chloro-2-(2, 4-difluorophenyl)-2,3-epoxypropane were added 525 ml of acetic acid and 126 g of potassium acetate and the resulting mixture was stirred at 115° C. for 15 hours. The reaction mixture was allowed to cool to room temperature. Then, to this reaction liquid was added 700 ml of water and a solid matter was dissolved and the resulting solution was extracted three times with 500 ml of ethyl acetate. The organic layer was washed with saturated aqueous solution with sodium hydrogencarbonate and with water and dried over anhydrous sodium sulfate. The resulting organic layer was filtered and the solvent was removed under reduced pressure. Thus obtained concentrate was purified by column chromatography on silica gel (hexane: ethyl acetate=1:1) to give 100 g of the desired compound.

reactant | 1-chloro-2-(2, 4-difluorophenyl)-2,3-epoxypropane | 105 g | ClCC1(CO1)C1=C(C=C(C=C1)F)F | C9H7ClF2O
reactant | acetic acid | 525 ml | C(C)(=O)O | C2H4O2
reactant | potassium acetate | 126 g | C(C)(=O)[O-].[K+]
solvent | water | 700 ml | O | H2O
product | 1,3-diacetoxy-2-(2,4-difluorophenyl)-2-propanol | 100 g | C(C)(=O)OCC(COC(C)=O)(O)C1=C(C=C(C=C1)F)F | C13H14F2O5
